US07115601B2
3-(4-formyltetrahydro-2H-pyran-4-yl)propanenitrile
A solution of tetrahydro-2H-pyran-4-carbaldehyde (1.0 g, 8.77 mmol) and acrylonitrile (0.6 mL, 8.77 mmol) in dioxane (5 mL) was cooled to 0° C., treated with benzyltrimethylammonium hydroxide (0.04 mL, 40% in methanol), stirred at 0° C. for 30 minutes, warmed to room temperature, and stirred for 18 hours. The mixture was neutralized with 1N HCl and extracted with ethyl acetate. The organic phase was washed with aqueous saturated NaHCO3, dried (Na2SO4), filtered, and concentrated. The oil was purified by flash chromatography eluting with 0% to 50% ethyl acetate/hexane to provide the desired product as a colorless oil (0.777 g, 53% yield).

reactant | tetrahydro-2H-pyran-4-carbaldehyde | 8.77 mmol, 1.0 g | O1CCC(CC1)C=O | C6H10O2
reactant | acrylonitrile | 8.77 mmol, 0.6 mL | C(C=C)#N | C3H3N
reactant | benzyltrimethylammonium hydroxide | 0.04 mL | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 3-(4-formyltetrahydro-2H-pyran-4-yl)propanenitrile | 0.777 g, 53% yield | C(=O)C1(CCOCC1)CCC#N | C9H13NO2
